US05354651
Intermediate A: 5-(2-Acetoxybenzamido)-2-methylbenzoxazole:
5-Amino-2-methylbenzoxazole (18.6 g, 0.126 mol) and 2,6-lutidine (14.8 g, 0.138 mol) were combined with 125 mL of tetrahydrofuran and the solution was cooled to 3° C. in an ice-bath under nitrogen. 2-Acetoxybenzoyl chloride (25.0 g, 0.126 mol) was added as a solid, portionwise, so as to keep the temperature below 10° C. An additional 150 mL of tetrahydrofuran was added. After addition of all the 2-acetoxybenzoyl chloride, the ice-bath was removed and after stirring for 2 hr the mixture was poured into 300 mL of water and then combined with an additional 300 mL of water. The solid was collected and washed with water and dried. This afforded 33.6 g (86% yield) of product; m.p. 169°-171° C.

reactant | 5-Amino-2-methylbenzoxazole | 0.126 mol, 18.6 g | NC=1C=CC2=C(N=C(O2)C)C1 | C8H8N2O
reactant | 2,6-lutidine | 0.138 mol, 14.8 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-Acetoxybenzoyl chloride | 0.126 mol, 25.0 g | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 5-(2-Acetoxybenzamido)-2-methylbenzoxazole | 33.6 g, 86% yield | C(C)(=O)OC1=C(C(=O)NC=2C=CC3=C(N=C(O3)C)C2)C=CC=C1 | C17H14N2O4
